US06815451B2
2-(3,5-Dimethoxy-phenyl)-ethylamine
To a suspension of LiAlH4 (1.76 g, 46.4 mmol) in THF (30 mL) is added at 0° C. dropwise a solution of 1,3-dimethoxy-5-(2-nitro-vinyl)-benzene (2.43 g, 11.6 mmol; Gairaud C B, Lappin G R, J Org Chem 1953, 18, 1) in THF (70 mL). The mixture is stirred for 30 min at this temperature and then at reflux for 4 h. The reaction mixture is quenched by the subsequent addition of 2 N NaOH (20 mL) and stirred for another 15 min at ambient temperature. The aqueous solution is extracted three times with EtOAc. The combined organic layers are dried with anhydrous MgSO4, filtered and concentrated to give the title compound as a yellow oil.

reactant | LiAlH4 | 46.4 mmol, 1.76 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1,3-dimethoxy-5-(2-nitro-vinyl)-benzene | 11.6 mmol, 2.43 g | COC1=CC(=CC(=C1)C=C[N+](=O)[O-])OC | C10H11NO4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 2-(3,5-Dimethoxy-phenyl)-ethylamine | COC=1C=C(C=C(C1)OC)CCN | C10H15NO2
